US04001238
4-Amino-6,7-dimethoxy-2-[4-(5-n-propylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride
The title compound was prepared from 5-n-propylthio-1,3,4-oxadiazole-2-carbonyl chloride (1.68 g., 8.16 mmole) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (2.36 g., 8.16 mmole) following the procedure of Example 1. The product had a M.P. of 230°-245° C. with decomposition.

reactant | 5-n-propylthio-1,3,4-oxadiazole-2-carbonyl chloride | 8.16 mmole, 1.68 g | C(CC)SC1=NN=C(O1)C(=O)Cl | C6H7ClN2O2S
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 8.16 mmole, 2.36 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(5-n-propylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1OC(=NN1)SCCC | InChI=1S/C20H25N7O4S.ClH/c1-4-9-32-20-25-24-17(31-20)18(28)26-5-7-27(8-6-26)19-22-13-11-15(30-3)14(29-2)10-12(13)16(21)23-19;/h10-11H,4-9H2,1-3H3,(H2,21,22,23);1H
